Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
confusion, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a pleasant ___ yo M with PMH of hepatitis C, ADD, 
unclear psych hx but with prior psych hospitalizations who was 
found vomiting on the side of the road by a concerned citizen.  
Pt is unable to give a reliable history with story changing 
throughout the interview, initially stating that he came in 
after a fall from slipping on snow and ice (however no snow or 
ice currently), thinks he may have lost conciousness.  States he 
didn't know what he was doing at the time he was found however 
"had plans to see somebody, spending time knocking on doors."  
Denies any complaints other than increased urinary frequency 
which is a chronic problem for him.  

In the ED, initial vitals were: 97.3 100 148/65 16 98% RA.  In 
the ED, labs were notable for WBC of 18. UA was notable for 
positive nitrates, few bacteria, moderate bili.  LFTs relatively 
unremarkable other than AST of 50.  Tox screen was positive for 
urine amphetamines.  He was started on ceftriaxone.  Vitals were 
stable on transfer other than BP 99/65.  

On the floor, pt has no complaints.  Does not think he is 
confused.  States he has delusions, most recently of people 
having been in the room who were not really there, and 
frequently refers to "psych issues" but is unable to state any 
specific problems other than ADD.  States he was worked up for 
"blacking out" with EEG at hospital in ___ but 
w/u was negative.  Prior hx of psych hospitalizations but none 
recently.  Denies any drug use.

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  All 
other systems negative.

PAST MEDICAL HISTORY:
-"psych issues" with prior hospitalization in ___.  States his 
only current medication is Adderall.  Psychiatrist is Dr ___ 
in ___.
-Hepatitis C

 
Past Medical History:
-"psych issues" with prior hospitalization in ___.  States his 
only current medication is Adderall.  Psychiatrist is Dr ___ 
in ___.
-Hepatitis C
 
Social History:
___
Family History:
no known
 
Physical Exam:
PHYSICAL EXAM:
Vitals: 98.0 99/59 94 18 99%RA
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI, PERRL, 
small abrasion on nose and foreheasd
Neck: Supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, no CCE, no asterixis
Neuro: aaox3 CNII-XII and strength intact
Skin: no rashes or lesions
 
Pertinent Results:
___ 08:30PM CEREBROSPINAL FLUID (CSF)  PROTEIN-44 
GLUCOSE-79
___ 08:30PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-0 POLYS-0 
___ ___ 04:43PM   GLUCOSE-111* UREA N-41* CREAT-0.8 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-21* ANION GAP-18
___ 04:43PM   estGFR-Using this
___ 04:43PM   ALT(SGPT)-27 AST(SGOT)-50* ALK PHOS-69 TOT 
BILI-0.9
___ 04:43PM   LIPASE-31
___ 04:43PM   ALBUMIN-4.0
___ 04:43PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:44PM   LACTATE-2.3*
___ 03:35PM URINE  HOURS-RANDOM
___ 03:35PM URINE  HOURS-RANDOM
___ 03:35PM URINE  GR HOLD-HOLD
___ 03:35PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS oxycodn-NEG mthdone-NEG
___ 03:35PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 03:35PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-15 BILIRUBIN-MOD UROBILNGN-1 PH-5.5 LEUK-NEG
___ 03:35PM URINE  RBC-5* WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 03:35PM URINE  HYALINE-15*
___ 03:35PM URINE  AMORPH-RARE
___ 03:35PM URINE  MUCOUS-RARE
___ 03:30PM   VoidSpec-CANCELLED 
___ 03:30PM   WBC-18.0* RBC-5.10 HGB-15.4 HCT-44.2 MCV-87 
MCH-30.2 MCHC-34.8 RDW-13.5 RDWSD-41.7
___ 03:30PM   NEUTS-86.3* LYMPHS-3.5* MONOS-9.4 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-15.51* AbsLymp-0.63* AbsMono-1.69* 
AbsEos-0.03* AbsBaso-0.05
___ 03:30PM   ___ PTT-29.5 ___
___ 03:30PM   PLT COUNT-140*

MICRO: blood/urine cx pending

STUDIES:
CXR with no acute CP process
Head CT with no acute intracranial process
EKG:
 
Brief Hospital Course:
Acute toxic metabolic encephalopathy vs acute psychiatric 
decompenasation. Possibly due to dehydration, pt returned back 
to his baseline without any specific interventions. No evidence 
of infection. HIV, RPR neg. TSH wnl. Pt has significant psych hx 
with reported psych hospitalization and delusions however states 
he is not currently on any psych

Multiple Falls: neg head CT. ibuprofen/Tylenol for pain. Cleared 
for home by ___.

Vomiting: resolved. None during admission. Pt tolerated PO.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Amphetamine-Dextroamphetamine 20 mg PO TID 

 
Discharge Medications:
1. Amphetamine-Dextroamphetamine 20 mg PO TID 
2. Acetaminophen 1000 mg PO Q6H:PRN pain 
3. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vomiting
Dehydration
Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted due to an episode of vomiting and confusion. 
Both of these resolved on their own. You did not have any signs 
of infection. You were evaluated by physical therapy due to your 
recent falls and were safe for home. You did not have any 
significant trauma from these falls. You may take Tylenol or 
ibuprofen for any soreness.
 
Followup Instructions:
___